US07459448B2
2-(3-Ethoxycarbonyl-propionylamino)-5-iodo-benzoic acid methyl ester (ii-a)
To methyl 2-amino-5-iodobenzoate (i-a) (15 g, 54 mmol) was added 200 mL of CH2Cl2, followed by DIEA (9.4 mL, 54 mmol) and a catalytic amount of DMAP. Ethyl 4-chloro-4-oxobutanoate (Rc═Rd═H) (8.5 mL, 60 mmol) was added, and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was then poured into 250 mL H2O, and the organic layer was washed with brine, dried over MgSO41 filtered, and concentrated in vacuo to afford ii-a (22 g, 99%) as a pale yellow solid: MS m/z═406 (M+H).

reactant | methyl 2-amino-5-iodobenzoate | 54 mmol, 15 g | NC1=C(C(=O)OC)C=C(C=C1)I | C8H8INO2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | DIEA | 54 mmol, 9.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ethyl 4-chloro-4-oxobutanoate | 60 mmol, 8.5 mL | ClC(CCC(=O)OCC)=O | C6H9ClO3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 250 mL | O | H2O
product | 2-(3-Ethoxycarbonyl-propionylamino)-5-iodo-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)I)NC(CCC(=O)OCC)=O)=O | C14H16INO5
